US05158966
5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-3-[2-(methylthio)ethyl]-4-thiazolidinone
26.7 g of 5-{[3,5-Bis(1,1-dimethylethyl)-4hydroxyphenyl]methylene]-4-thiazolidinone (i.e., the compound of Example 2) was dissolved in 418 ml of DMF to which was added 3.34 g of a 60% sodium hydride dispersion. The resultant mixture was stirred at 100° C. under an argon atmosphere. To this was added 8.33 ml of methylthioethyl chloride and the resulting black solution was stirred at 100° C. for 6 days. The material was allowed to cool to 30° C. after which insoluble material was filtered off. The solid was washed with DMF until its color was gone leaving a white solid which was discarded. The pH of the filtrate and washings was adjusted to 1.5 by the addition of 1N hydrochloric acid with stirring. The mixture was then diluted with a mixture of 1000 ml of diethyl ether and 500 ml of 1N hydrochloric acid which was then shaken and separated. The organic layer was washed with two portions of water and one portion of brine and subsequently dried over sodium sulfate, filtered, evaporated and chased with chloroform to give a black foam/oil. This material was triturated with about 75 ml of chloroform and then filtered and the insoluble solid was washed with additional chloroform until its brown color was gone. The filtrate was then loaded onto a silica gel column which was eluted with 8000 ml of a gradient of 10-30% ethyl acetate in hexane. The various fractions containing the desired product were combined and again loaded onto a silica gel column and eluted with 8000 ml of a gradient of 10-35% acetone in hexane. The fractions containing the desired product were recrystalled with hexane/ethyl acetate to give 1.2 g of the title compound as a tan/orange solid, m.p. 165.5-168° C.

reactant | 5-{[3,5-Bis(1,1-dimethylethyl)-4hydroxyphenyl]methylene]-4-thiazolidinone | 26.7 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NCS1)=O | C18H25NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | methylthioethyl chloride | 8.33 ml | CSCCCl | C3H7ClS
solvent | DMF | 418 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | hydrochloric acid | 1N | Cl | ClH
product | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-3-[2-(methylthio)ethyl]-4-thiazolidinone | 1.2 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N(CS1)CCSC)=O | C21H31NO2S2
